US20010041710A1
e) (4R)-1-[4-(4-Fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid hydroxyamide
To a solution of (4R)-1-[4-(4-fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid (2-trimethylsilanylethoxy)amide (85 mg, 0.19 mmol) in methylene chloride (5 mL) was added boron trifluoride etherate (0.073 mL, 0.58 mmol). The reaction mixture was stirred at room temperature for 1.5 hours and then quenched by addition of aqueous saturated NH4Cl solution. The mixture was diluted with water and ethyl acetate and the organic phase was washed with brine, dried over MgSO4 and concentrated to a white solid. The title compound (31 mg, 47%) was isolated by recrystallization from a mixture of ethyl acetate and methanol.

reactant | (4R)-1-[4-(4-fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid (2-trimethylsilanylethoxy)amide | 0.19 mmol, 85 mg | C[Si](CCONC(=O)[C@@H]1NC(N(C1)CC1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O)(C)C | C22H28FN3O4Si
reactant | boron trifluoride etherate | 0.58 mmol, 0.073 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (4R)-1-[4-(4-Fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid hydroxyamide | 31 mg, 47% | ONC(=O)[C@@H]1NC(N(C1)CC1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O | C17H16FN3O4
